US08865726B2
A mixture of (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one and (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (0.137 g, 0.255 mmol) was dissolved in dichloromethane (0.55 mL). Trifluoroacetic acid (1.1 mL) was added and the mixture allowed to stir at ambient temperature for 18 hours. The reaction mixture was concentrated with multiple dichloromethane additions to give a crude residue. Acetonitrile (5 mL) and 28% aqueous ammonia (3 mL, 44 mmol) were added and the mixture concentrated with multiple acetonitrile additions to a yellow solid. Purification by normal phase chromatography, eluting with 50-100% EtOAc/dichloromethane, provided (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (0.032 g, 31%) as a yellow solid. LCMS (APCI+) m/z 408.5 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 11.24 (broad s, 1H), 8.61 (d, J=7.8 Hz, 1H), 8.43 (s, 1H), 8.26 (t, J=8.2 Hz, 1H), 8.09 (m, 2H), 8.00 (d×d, J=13.8, 1.0 Hz, 1H), 7.87 (d×d, J=8.4, 1.2 Hz, 1H), 4.99-4.96 (m, 1H), 4.50-4.41 (m, 2H), 2.94-2.86 (m, 1H), 1.10 (d, J=7.0 Hz, 3H), 0.94 (d, J=6.8 Hz, 3H).

reactant | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C26H32FN7O3Si
reactant | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.255 mmol, 0.137 g | FC=1C=C(C=CC1C1=NC=NN1COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C26H32FN7O3Si
reactant | Trifluoroacetic acid | 1.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 44 mmol, 3 mL | N | H3N
solvent | dichloromethane | 0.55 mL | ClCCl | CH2Cl2
solvent | Acetonitrile | 5 mL | C(C)#N | C2H3N
product | (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.032 g, 31% | FC=1C=C(C=CC1C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C20H18FN7O2
